US08420690B2
b) methyl beta,beta-dimethylphenylalaninate
A solution of methyl 2-azido-3-methyl-3-phenylbutanoate (2.6 g, 11.2 mmol) and PPh3 (4.4 g, 16.7 mmol) in H2O (400 uL) and THF (100 mL) was stirred at 25° C. over 2 d then at 50° C. for 12 h. The solution was concentrated and purified via column chromatography (silica, 5% MeOH in DCM (1% NH4OH)) yielding the title compound (1.4 g, quant.): LCMS (ES) m/e 208 (M+H)+.

reactant | methyl 2-azido-3-methyl-3-phenylbutanoate | 11.2 mmol, 2.6 g | N(=[N+]=[N-])C(C(=O)OC)C(C)(C1=CC=CC=C1)C | C12H15N3O2
reactant | PPh3 | 16.7 mmol, 4.4 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | H2O | 400 uL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | methyl beta,beta-dimethylphenylalaninate | 1.4 g | CC([C@H](N)C(=O)OC)(C1=CC=CC=C1)C | C12H17NO2
